US04829079
Example 51: 1-benzenesulphonyl-2-oxo-5-hydroxypyrrolidine
50 mg of osmium tetraoxide is added to a solution of 5 g of N-benzenesulphonyl-4-pentenoylamide in 150 cm3 of dioxan and 50 cm3 of water. After about 20 minutes, 5.10 g of sodium metaperiodate is added, and after agitating for 1 hour, a further 5.10 g of sodium metaperiodate is added, with agitation for a further 2 hours at ambient temperature. The precipitate formed is filtered off, the filtrate is evaporated to dryness and the residue is dissolved in 50 cm3 of ethyl acetate, treated with activated charcoal, then evaporated to dryness. The residue is triturated in anhydrous ethyl ether, and 2.05 g of the expected product is obtained, which is re-crystallizxed from isopropanol m.p. 121° C.

reactant | N-benzenesulphonyl-4-pentenoylamide | 5 g | C1(=CC=CC=C1)S(=O)(=O)[N-]C(CCC=C)=O
reactant | sodium metaperiodate | 5.10 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium metaperiodate | 5.10 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxan | 150 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 50 cm3 | O | H2O
catalyst | osmium tetraoxide | 50 mg | [Os](=O)(=O)(=O)=O
product | 1-benzenesulphonyl-2-oxo-5-hydroxypyrrolidine | 2.05 g | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1O)=O | C10H11NO4S
